US03946044
Preparation of N-(1,3-Dioxolan-2-ylmethyl)-2-ethyl-6-methylaniline
2-Ethyl-6-methylaniline (70 grams), 2-chloromethyl-1,3-dioxolane (30 grams), potassium carbonate (38 grams) and dimethylformamide (50 ml) were charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture was heated at reflux for a period of about 24 hours. After this time the mixture was filtered and distilled to yield the desired product N-(1,3-dioxolan-2-ylmethyl)-2-ethyl-6-methylaniline.

reactant | 2-Ethyl-6-methylaniline | 70 grams | C(C)C1=C(N)C(=CC=C1)C | C9H13N
reactant | 2-chloromethyl-1,3-dioxolane | 30 grams | ClCC1OCCO1 | C4H7ClO2
reactant | potassium carbonate | 38 grams | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(1,3-dioxolan-2-ylmethyl)-2-ethyl-6-methylaniline | O1C(OCC1)CNC1=C(C=CC=C1C)CC | C13H19NO2
